US07125901B2
To a solution of 1-[3-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]ethanone (755 mg) in tetrahydrofuran (4 ml) was added bromine (168 ml) drop wise at 0° C. The mixture was stirred at 25° C. for 1 h. To the reaction mixture was added aq. saturated NaHCO3, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give crude of 2-bromo-1-[3-(2-hydroxyethyl)phenyl]ethanone as colorless oil. This compound was used for the next reaction without further purification.

reactant | 1-[3-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]ethanone | 755 mg | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(C=CC1)C(C)=O | C16H26O2Si
reactant | bromine | 168 ml | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-bromo-1-[3-(2-hydroxyethyl)phenyl]ethanone | BrCC(=O)C1=CC(=CC=C1)CCO | C10H11BrO2
